US04996219
EXAMPLE 4 3-Benzyl-4-imino-5-methyleneimidazolidin-2-one
A solution of 4.75 g. (20 mmol) 2-(benzylaminocarbonylamino)-3-chloropropionitrile and 6 ml. triethylamine in 50 ml. dry tetrahydrofuran is heated to reflux for 5 hours. Subsequently, the precipitate formed is filtered off, the filtrate is evaporated to dryness and the residue is chromatographed on silica gel (elution agent: ethyl acetate) to give 2.5 g. (62.2% of theory) of the title compound; m.p. 139°-141° C.

reactant | 2-(benzylaminocarbonylamino)-3-chloropropionitrile | 20 mmol | C(C1=CC=CC=C1)NC(=O)NC(C#N)CCl | C11H12ClN3O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-Benzyl-4-imino-5-methyleneimidazolidin-2-one | C(C1=CC=CC=C1)N1C(NC(C1=N)=C)=O | C11H11N3O
